US08207344B2
2: 4-{4-[1-(2-Fluoro-2-methyl-propyl)-piperidin-4-ylmethoxy]-phenyl}-1-methanesulfonyl-1,2,3,6-tetrahydro-pyridine
To a solution of 2-fluoro-1-{4-[4-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-phenoxymethyl]-piperidin-1-yl}-2-methyl-propan-1-one (1.00 g, 2.28 mmol) in tetrahydrofuran (23 mL) at rt is added via cannula a 1 M solution of lithium aluminum hydride in tetrahydrofuran (7.18 g, 7.98 mL, 7.98 mmol). After 1 h, sodium sulfate decahydrate is added carefully. The mixture is stirred for 15 min and the solid is filtered off and washed with dichloromethane. The solvent is removed and the residue is purified via silica gel chromatography, eluting with dichloromethane:ethyl acetate 5.6:1 to 2:1 to obtain a solid. Diethyl ether is added and the solid is filtered and washed with diethyl ether and ethyl acetate to obtain 0.245 g of the title compound as a white solid. MS (m/z) 425 (M+1).

reactant | 2-fluoro-1-{4-[4-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-phenoxymethyl]-piperidin-1-yl}-2-methyl-propan-1-one | 2.28 mmol, 1.00 g | FC(C(=O)N1CCC(CC1)COC1=CC=C(C=C1)C=1CCN(CC1)S(=O)(=O)C)(C)C | C22H31FN2O4S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 23 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.98 mmol, 7.98 mL, 7.18 g | O1CCCC1 | C4H8O
product | 4-{4-[1-(2-Fluoro-2-methyl-propyl)-piperidin-4-ylmethoxy]-phenyl}-1-methanesulfonyl-1,2,3,6-tetrahydro-pyridine | 0.245 g | FC(CN1CCC(CC1)COC1=CC=C(C=C1)C=1CCN(CC1)S(=O)(=O)C)(C)C | C22H33FN2O3S
